US04843068
2-Methyl-2-[4-{(1,3-dimethyl-5-phenoxypyrazol-4-yl)methyleneaminoxymethyl}phenyl]-1,3-dioxolane (compound No. 562)
1.0 Gram (0.0043 mole) of 1,3-dimethyl-5-phenoxypyrazole-4-carbaldehyde oxime was dissolved in 20 ml of dioxane, and 0.14 g (0.0058 mole) of sodium hydride was added. Thereafter, 1.1 g (0.0043 mole) of 2-(4-bromomethylphenyl)-2-methyl-1,3-dioxolane was added to this solution which was then heated under reflux for 3 hours. After completion of the reaction, the reaction solution was poured into 200 ml of cold water and extracted with ethyl acetate. The ethyl acetate extract was washed with water and dried, and ethyl acetate was removed by evaporation to obtain an oily product. This oily product was column-chromatographed on silica gel to obtain 1.3 g of the desired compound.

reactant | 1,3-dimethyl-5-phenoxypyrazole-4-carbaldehyde oxime | 0.0043 mole | CN1N=C(C(=C1OC1=CC=CC=C1)C=NO)C | C12H13N3O2
reactant | sodium hydride | 0.0058 mole, 0.14 g | [H-].[Na+]
reactant | 2-(4-bromomethylphenyl)-2-methyl-1,3-dioxolane | 0.0043 mole, 1.1 g | BrCC1=CC=C(C=C1)C1(OCCO1)C | C11H13BrO2
reactant | water | 200 ml | O | H2O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 2-Methyl-2-[4-{(1,3-dimethyl-5-phenoxypyrazol-4-yl)methyleneaminoxymethyl}phenyl]-1,3-dioxolane | 1.3 g, Yield 74% | CC1(OCCO1)C1=CC=C(C=C1)CON=CC=1C(=NN(C1OC1=CC=CC=C1)C)C | C23H25N3O4
